US03983245
A mixture of 3.0 g. (0.209 mol.) of N-t-butyl-3-hydroxymethylazetidine, 6.0 g. (0.0229 mol.) of triphenylphosphine and 50 ml. of carbon tetrachloride was refluxed for 48 hours. The mixture was cooled, filtered and the filtrate was extracted three times with 10% aqueous sulfuric acid. The combined extracts were basicified by addition of solid sodium carbonate and the basic solution was extracted with ether. The extract was dried (MgSO4), evaporated to dryness and the residue distilled to give N-t-butyl-3-chloromethylazetidine, b.p. 90°-96° (27 mm.).

reactant | N-t-butyl-3-hydroxymethylazetidine | 0.209 mol | C(C)(C)(C)N1CC(C1)CO | C8H17NO
reactant | triphenylphosphine | 0.0229 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-t-butyl-3-chloromethylazetidine | C(C)(C)(C)N1CC(C1)CCl | C8H16ClN
